* wrapper_bottom_r1_c1e-08_trial_1024_-1
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
.include /repo/v2/analog/adc/adc_blocks.spice
.temp 27
.options reltol=1e-5 abstol=1e-14 vntol=1e-8 method=gear klu
.include /repo/v2/analog/adc/adc_analog12_bottomsample.spice
VDD vdd 0 1.8
VCM cm 0 .9
VRP srp 0 1.1
VRN srn 0 .7
RRP srp rp 1.0
RRN srn rn 1.0
VIP sp 0 0.799975585937
VIN sn 0 1.00002441406
RSP sp ip 350
RSN sn inn 350
VSAMP sample 0 PWL(0 1.8 2.49u 1.8 2.491u 0)
VSAMPB sampleb 0 PWL(0 0 2.49u 0 2.491u 1.8)
VACQ acq 0 PWL(0 1.8 2.50u 1.8 2.501u 0)
VCONV conv 0 PWL(0 0 2.52u 0 2.521u 1.8)
VEVAL ev 0 PULSE(0 1.8 2.825u 1n 1n 250n 625n)
VB0 b0 0 0
VB1 b1 0 0
VB2 b2 0 0
VB3 b3 0 0
VB4 b4 0 0
VB5 b5 0 0
VB6 b6 0 0
VB7 b7 0 0
VB8 b8 0 0
VB9 b9 0 0
VB10 b10 0 1.8
VB11 b11 0 0
CEXTP rp 0 1e-08
CEXTN rn 0 1e-08
XADC ip inn q qb sample sampleb acq conv ev b11 b10 b9 b8 b7 b6 b5 b4 b3 b2 b1 b0 rp rn cm vdd 0 adc_analog12_bottomsample
CQ q 0 5f
CQB qb 0 5f
.ic V(q)=0 V(qb)=1.8
.control
set num_threads=1
set wr_singlescale
set wr_vecnames
set numdgt=12
tran 2n 3.2u
wrdata /repo/v2/analog/adc/results/wrapper_bottom_r1_c1e-08_trial_1024_-1.tsv v(xadc.tn) v(xadc.tp) v(q) v(qb) v(ev) v(rp) v(rn)
quit
.endc
.end
